US06921763B2
N2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-methyl-1,3-benzoxazol-2-amine was prepared from N2-(4-bromophenyl)-5-methyl-1,3-benzoxazol-2-amine (1.5 g, 4.95 mmol) using the method described for the preparation of N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-chloro-1,3-benzoxazol-2-amine. The product was formed as white floculent solid (0.79 g, 46%); RP-HPLC Rt 17.382 min, 98% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); 1H NMR (400 MHz, d6-DMSO) 1.29 (12H, s), 2.38 (3H, s), 6.94 (1H, d, J 8.1 Hz), 7.30 (1H, s), 7.36 (1H, d, J 8.1 Hz), 7.67 (2H, d, J 8.5 Hz), 7.75 (2H, d, J 8.5 Hz), and 10.74 (1H, s).

reactant | N2-(4-bromophenyl)-5-methyl-1,3-benzoxazol-2-amine | 4.95 mmol, 1.5 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C | C14H11BrN2O
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-chloro-1,3-benzoxazol-2-amine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)Cl)C | C19H20BClN2O3
product | N2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-methyl-1,3-benzoxazol-2-amine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C)C | C20H23BN2O3
